US03941841
0.2 g. of 4,8-dimethyl-10-(4-oxo-2,6,6-trimethyl-2-cyclohexenylidene)-2,4,6,8-decatetraenal and 0.35 g. of 2,6-dimethyl-8-(4-oxo-2,6,6-trimethyl-2-cyclohexenylidene)-2,4,6-octatrien triphenylphosphonium bromide were dissolved in 6 ml. of methanol and treated with 0.2 g. of sodium methoxide at 0° for 4 hours. The precipitated dark violet solid was collected and recrystallized from benzene methanol to yield rhodoxanthin.

reactant | 4,8-dimethyl-10-(4-oxo-2,6,6-trimethyl-2-cyclohexenylidene)-2,4,6,8-decatetraenal | CC(C=CC=O)=CC=CC(=CC=C1C(=CC(CC1(C)C)=O)C)C | C21H26O2
reactant | 2,6-dimethyl-8-(4-oxo-2,6,6-trimethyl-2-cyclohexenylidene)-2,4,6-octatrien triphenylphosphonium bromide | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1.CC(C)=CC=CC(=CC=C1C(=CC(CC1(C)C)=O)C)C
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | rhodoxanthin | CC\1=CC(=O)CC(/C1=C\C=C(\C=C\C=C(\C=C\C=C\C(=C\C=C\C(=C\C=C\2/C(CC(=O)C=C2C)(C)C)\C)\C)/C)/C)(C)C | C40H50O2
